US07661577B2
51.1 g (0.320 mol) of bromine was added dropwise to a solution of 65.0 g (0.320 mol) of 3′,4′-dichloropropiophenone in 150 g of methanol at a reaction temperature of 58 to 60° C. After the addition was complete, the methanol was evaporated off from the reaction solution under reduced pressure. The resultant concentrate was dissolved in 130 g of toluene and then washed with water (150 ml×3 times). Thereafter, the toluene was evaporated off under reduced pressure, giving 86.6 g (0.307 mol) of crude brown oily 2-bromo-3′,4′-dichloropropiophenone.

reactant | bromine | 0.320 mol, 51.1 g | BrBr | Br2
reactant | 3′,4′-dichloropropiophenone | 0.320 mol, 65.0 g | ClC=1C=C(C=CC1Cl)C(CC)=O | C9H8Cl2O
solvent | methanol | 150 g | CO | CH4O
product | 2-bromo-3′,4′-dichloropropiophenone | 0.307 mol, 86.6 g | BrC(C(=O)C1=CC(=C(C=C1)Cl)Cl)C | C9H7BrCl2O
